US09302996B2
In trifluoroacetic acid (2.9 mL) and water (0.3 mL) was dissolved methyl 2,2-dimethyl-3-(4-{5-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]pyridin-2-yl}phenoxy)propanoate (144 mg) under ice-cooling, and the mixture was stirred at room temperature overnight. To the residue obtained by concentrating the reaction mixture under reduced pressure were added chloroform and a saturated aqueous sodium bicarbonate solution. The formed insoluble material was dissolved in methanol and combined with the organic layer. The organic layer was washed with water, and concentrated under reduced pressure. The obtained residue was pulverized by cooled ether, collected by filtration and dried to obtain methyl 2,2-dimethyl-3-(4-{5-[5-(trifluoromethyl)-1H-imidazol-2-yl]pyridin-2-yl}phenoxy)-propanoate (85.9 mg).

reactant | methyl 2,2-dimethyl-3-(4-{5-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]pyridin-2-yl}phenoxy)propanoate | 144 mg | CC(C(=O)OC)(COC1=CC=C(C=C1)C1=NC=C(C=C1)C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)C | C27H34F3N3O4Si
solvent | trifluoroacetic acid | 2.9 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 0.3 mL | O | H2O
product | methyl 2,2-dimethyl-3-(4-{5-[5-(trifluoromethyl)-1H-imidazol-2-yl]pyridin-2-yl}phenoxy)-propanoate | 85.9 mg | CC(C(=O)OC)(COC1=CC=C(C=C1)C1=NC=C(C=C1)C=1NC(=CN1)C(F)(F)F)C | C21H20F3N3O3
